US07427632B2
3-Chloro-N-[(R)-1-phenyl-2-(1-cyclopentylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide
Using alkylation method A, 3-chloro-N-[(R)-1-phenyl-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide hydrochloride (150 mg, 0.33 mmol) and cyclopentanone (0.5 mL, 5.7 mmol) afforded, after purification (SiO2: 8:2:1 hexane:EtOAc:isopropylamine), 78 mg (49%) of the title compound.

reactant | 3-chloro-N-[(R)-1-phenyl-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide hydrochloride | 0.33 mmol, 150 mg | Cl.ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCC1CCNCC1)C1=CC=CC=C1
reactant | cyclopentanone | 5.7 mmol, 0.5 mL | C1(CCCC1)=O | C5H8O
product | 3-Chloro-N-[(R)-1-phenyl-2-(1-cyclopentylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCC1CCN(CC1)C1CCCC1)C1=CC=CC=C1 | C28H34ClN3O2
